US04500716
Tert.-butyl 2-tert.-butoxycarbonylimino-3-tert.-butoxycarbonyl-4-thiazolin-4-ylacetate
157 g (0.5 mol) of tert.-butyl 2-aminothiazol-4-ylacetate, 150 ml of dimethyl sulphoxide and 260 g (1.2 mols) of 98% di-tert.-butyl pyrocarbonate were reacted in analogy to Example 1.

reactant | tert.-butyl 2-aminothiazol-4-ylacetate | 0.5 mol, 157 g | NC=1SC=C(N1)CC(=O)OC(C)(C)C | C9H14N2O2S
reactant | di-tert.-butyl pyrocarbonate | 1.2 mols, 260 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
product | Tert.-butyl 2-tert.-butoxycarbonylimino-3-tert.-butoxycarbonyl-4-thiazolin-4-ylacetate | C(C)(C)(C)OC(=O)N=C1SC=C(N1C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C19H30N2O6S
